US07186729B2
2-[5-(3-{4-[(4-Chloro-phenyl)-ethyl-amino]-piperidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol
To a solution of the (4-chloro-phenyl)-ethyl-piperidin-4-yl-amine (0.150 g, 0.63 mmol) in isopropanol was added 2,6-lutidine (0.24 mL, 2.1 mmol) and catalytic potassium iodide. This mixture was heated to 80° C., and treated with 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a, d]cyclohepten-7-yl]-propan-2-ol (0.221 g, 0.6 mmol), added in portions over 1 h. The solution was then stirred at 80° C. for an additional 14 h. The reaction was concentrated in vacuo, then purified by Isco flash chromatography (15% methanol/85% methylene chloride) to yield the title compound (0.108 g, 34%). 1H-NMR (CDCl3): δ 1.12 (t, 3H), 1.57 (s, 6H), 2.67–2.80 (m, 4H), 2.00 (m, 2H), 2.34–2.41 (m, 2H), 2.43–2.54 (m, 2H), 2.88 (d, 2H), 3.22 (q, 2H), 3.37–3.51 (m, 1H), 5.28 (bs, 2H), 6.12 (t, 1H), 6.60 (d, 2H), 6.80 (d, 1H), 7.13 (d, 2H), 7.21–7.30 (m, 2H), 7.45 (s, 1H), 7.56 (d, 1H), 8.48 (dd, 1H). ESI-MS m/z: 532 (M+1), retention time 2.47.

reactant | (4-chloro-phenyl)-ethyl-piperidin-4-yl-amine | 0.63 mmol, 0.150 g | ClC1=CC=C(C=C1)N(C1CCNCC1)CC | C13H19ClN2
reactant | 2,6-lutidine | 2.1 mmol, 0.24 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a, d]cyclohepten-7-yl]-propan-2-ol | 0.6 mmol, 0.221 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[5-(3-{4-[(4-Chloro-phenyl)-ethyl-amino]-piperidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.108 g, 34% | ClC1=CC=C(C=C1)N(C1CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)CC | C32H38ClN3O2
